US08809336B2
17D. 4-(4-Chlorobenzyl)-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-ylamine
A solution of 4-(4-chlorobenzyl)piperidin-4-yl amine hydrochloride (0.060 g, 0.2016 mmol), 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (0.031 g, 0.2016 mmol) and triethylamine (0.140 ml, 1.0079 mmol) in n-butanol (2.0 ml) was heated to 100° C. for 24 hours. Concentration and purification by preparative silica TLC gave a white solid (0.034 g, 49%). LC-MS (LCT) m/z 342 [M+H+], Rt 3.25 min.

reactant | 4-(4-chlorobenzyl)piperidin-4-yl amine hydrochloride | 0.2016 mmol, 0.060 g | Cl.ClC1=CC=C(CC2(CCNCC2)N)C=C1
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.2016 mmol, 0.031 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | triethylamine | 1.0079 mmol, 0.140 ml | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 2.0 ml | C(CCC)O | C4H10O
product | 4-(4-Chlorobenzyl)-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-ylamine | 0.034 g, 49% | ClC1=CC=C(CC2(CCN(CC2)C=2C3=C(N=CN2)NC=C3)N)C=C1 | C18H20ClN5
